US05001233
2,2,6,6-tetramethyl-4-piperidinol was prepared by the reduction of 2,2,6,6-tetramethyl-4-piperidone (Aldrich) with sodium borohydride. It was purified by recrystallization from ligroin (bp 65-90). It formed colorless needles with mp 130-131; the reported mp is 128-131 (Lutz et al 1962).

reactant | 2,2,6,6-tetramethyl-4-piperidone | CC1(NC(CC(C1)=O)(C)C)C | C9H17NO
reactant | sodium borohydride | [BH4-].[Na+]
product | 2,2,6,6-tetramethyl-4-piperidinol | 99% yield | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
